US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-ethoxy-phenylboronic acid to give [1-(4-ethoxy-phenyl)-6-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 375(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 4-ethoxy-phenylboronic acid | C(C)OC1=CC=C(C=C1)B(O)O | C8H11BO3
product | [1-(4-ethoxy-phenyl)-6-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)OC1=CC=C(C=C1)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C22H22N4O2
